US05929067
(d) 3-Methylamino-4,4-diphenyl-butanoic acid methyl ester hydrochloride
3 ml (40.9 mmol) of thionyl chloride are added dropwise at 0° C. to a fine suspension of 6.2 g (20.4 mmol) of 3-methylamino-4,4-diphenyl-butyric acid hydrochloride in 70 ml of methanol. After a total of 88 hours at room temperature the reaction mixture is concentrated by evaporation and ether is added. The beige precipitate is filtered off, then washed with ether and dried under a high vacuum. The title compound is obtained in the form of a beige solid. Rt (HPLC)=11.2 min; 1H-NMR (300 MHz, d6 -DMSO, RT) d 9.41 (br, 1H), 8.56 (br, 1H), 7.59-7.18 (m, 10H), 4.56 (m, 1H), 4.43 (d, 1H), 3.46 (s, 3H), 2.87 (dd, 1H), 2.64 (dd,1H), 2.40 (s, 3H).

reactant | thionyl chloride | 40.9 mmol, 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methylamino-4,4-diphenyl-butyric acid hydrochloride | 20.4 mmol, 6.2 g | Cl.CNC(CC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methanol | 70 ml | CO | CH4O
product | 3-Methylamino-4,4-diphenyl-butanoic acid methyl ester hydrochloride | Cl.COC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)NC)=O | InChI=1S/C18H21NO2.ClH/c1-19-16(13-17(20)21-2)18(14-9-5-3-6-10-14)15-11-7-4-8-12-15;/h3-12,16,18-19H,13H2,1-2H3;1H
